US07842685B2
A slurry of 1-((3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)-phenyl)methyl)azetidine-3-carboxylic acid (0.084 g, 0.18 mmol) and mCPBA (0.063 g, 0.37 mmol) in 5 mL 10% MeOH/DCM was stirred rapidly at ambient temperature. After about 10 min, the reaction mixture became clear. After 10 additional minutes precipitates formed. After 10 additional minutes, the reaction mixture was filtered, rinsing with DCM. The solid was collected and dried in vacuo to give 1-((3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylic acid N-oxide as a mixture of isomers. The isomers were separated by RPHPLC (A=0.2% formic acid in water; B=0.04% formic acid in acetonitirle; 30×100, Gemini Axia, Sum) to give (1r,3s)-3-carboxy-1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzyl)azetidine 1-oxide and (1s,3r)-3-carboxy-1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzyl)azetidine 1-oxide. MS (ESI) m/z: Calculated: 475.1; Observed: 476.1 (M++1).

reactant | 1-((3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)-phenyl)methyl)azetidine-3-carboxylic acid | 0.18 mmol, 0.084 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CN1CC(C1)C(=O)O | C26H22FN3O2S
reactant | mCPBA | 0.37 mmol, 0.063 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | MeOH DCM | 5 mL | CO.C(Cl)Cl
product | 1-((3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylic acid N-oxide | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C[N+]1(CC(C1)C(=O)O)[O-] | C26H22FN3O3S
